US06579986B2
Preparation of 3-(3-Quinolyl)-2-Propyn-1-ol Diisopropyl Carbamate (Scheme 1, Compound (I))
To a dry three-necked round-bottom flask equipped with nitrogen inlet and overhead stirrer was charged 3-(3-quinolyl)-2-propyn-1-ol (2 g, 10.8 mmol) (Scheme 1, Compound (3) in THF (20 ml) and the solution was cooled to 0° C. Potassium t-butoxide (1.34 g, 11.9 mmol) was then added followed by diisopropylcarbamoyl chloride (1.65 g, 11.9 mmol). The mixture was stirred for 2 h at 0° C. and then allowed to warm up to room temperature over a period of 6 hours, by which time the reaction was determined to be complete. The reaction mixture was worked up with MTBE (50 ml) and 10% NH4Cl (25 ml) and was concentrated to an orange oil. Yield=3.3 g (100%)

reactant | 3-(3-quinolyl)-2-propyn-1-ol | 10.8 mmol, 2 g | N1=CC(=CC2=CC=CC=C12)C#CCO | C12H9NO
reactant | Potassium t-butoxide | 11.9 mmol, 1.34 g | CC(C)([O-])C.[K+]
reactant | diisopropylcarbamoyl chloride | 11.9 mmol, 1.65 g | C(C)(C)N(C(=O)Cl)C(C)C | C7H14ClNO
reactant | NH4Cl | 25 ml | [NH4+].[Cl-]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | MTBE | 50 ml | CC(C)(C)OC | C5H12O
product | 3-(3-Quinolyl)-2-Propyn-1-ol Diisopropyl Carbamate | C(C)(C)N(C(=O)OCC#CC=1C=NC2=CC=CC=C2C1)C(C)C | C19H22N2O2
